US04122183
(b) 5-(N-benzylmethylamino)-4-methyl-2-phenyloxazole
2-Benzamido-N-benzyl-N-methylpropanamide (80.0 g., 0.0269 mol.), was dissolved in dry chloroform (40 ml.) and trifluoroacetic anhydride (17.0 g., 0.0809 mol.) was added dropwise with stirring under nitrogen. The mixture was stirred for 4 hours, then sufficient anhydrous sodium carbonate was added portionwise to neutralise the acid formed. The solid was filtered off and washed with dry chloroform (2 × 10 ml.). The combined filtrates were evaporated under reduced pressure to give a brown oil, which was extracted with warm pentane. The pentane solution was evaporated to give a yellow oil 6.20 g. (82.5%). IR and NMR confirm the structure.

reactant | 2-Benzamido-N-benzyl-N-methylpropanamide | 0.0269 mol, 80.0 g | C(C1=CC=CC=C1)(=O)NC(C(=O)N(C)CC1=CC=CC=C1)C | C18H20N2O2
reactant | trifluoroacetic anhydride | 0.0809 mol, 17.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(N-benzylmethylamino)-4-methyl-2-phenyloxazole | 6.20 g | C(C1=CC=CC=C1)CNC1=C(N=C(O1)C1=CC=CC=C1)C | C18H18N2O
